US08202865B2
Step 2: 4-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzamide
Toluene-4-sulfonic acid monohydrate (141.53 mg; 0.74 mmol) was added to a mixture of N-(2,4-dimethoxybenzyl)-4-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzamide, obtained in step 1 and toluene (2 mL). The mixture was heated at 110° C. The reaction was quenched with water (3 mL) and extracted with EtOAc (3×5 mL). The organic layer was then dried over magnesium sulfate, filtered and concentrated. The crude was purified with MD Autoprep, to afford the title compound as a white solid. LC/MS (Method B): 388.3 (M+H)+. HPLC (Method A) Rt 5.20 min (Purity: 100.0%).

reactant | Toluene-4-sulfonic acid monohydrate | 0.74 mmol, 141.53 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-(2,4-dimethoxybenzyl)-4-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzamide | COC1=C(CNC(C2=C(C=C(C=C2)C2=NOC(=N2)C2=CC(=C(C=C2)C2=C(C=CC=C2)C)C)F)=O)C=CC(=C1)OC | C32H28FN3O4
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[5-(2,2′-dimethylbiphenyl-4-yl)-1,2,4-oxadiazol-3-yl]-2-fluorobenzamide | CC1=C(C=CC(=C1)C1=NC(=NO1)C1=CC(=C(C(=O)N)C=C1)F)C1=C(C=CC=C1)C | C23H18FN3O2
